Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-3.56791763711
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.47325830655
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-4.16326999623
[H:14].[H:1][C:2]([H:3])=[C:4]([O:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([O:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.74909652988
[H:1]/[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[H:1][C:2]=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],6.229373441919999
[C:3]([H:4])([H:7])[H:8].[H:1][C:2](=[C:5][H:6])[C:9]([H:10])([H:11])[H:12]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.48176895729
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:3](=[C:4]([H:5])[H:6])=[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2],4.14679429616
[C:8]=[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[O:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]=[C:9]([H:10])[H:11],-1.95424628647
[H:1][O:2][C@:3]([H:4])([C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.26957976019
[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],1.75294008572
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11]>>[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11].[O:1]=[C:2],0.772854875341
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],3.39510408569
[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:3].[O:1]=[C:2][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],4.0895217529000005
[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-3.75225405822
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8]>>[C:1].[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8],7.2640134812
[C:1]#[C:2][C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:4]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.17022756186
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])=[C:12]>>[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])=[C:12]1,-0.575252587991
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][H:4],4.88232853675
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])=[C:12][H:13]>>[C:7]([H:8])[H:9].[H:1][C:2][C:3]([H:4])[C:5]([H:6])[C:10]([H:11])=[C:12][H:13],4.66715542667
[H:11].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.80307379432
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:6],3.809489122830002
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:9]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:8]#[C:9].[H:7],2.4185998634400003
[O:1][C:2]([H:3])([H:4])[O:5][H:6]>>[C:2]([H:3])([H:4])[O:5][H:6].[O:1],4.21953699618
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3],7.06089985
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-6.201638078559999
[H:1].[O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-3.61586113833
[H:1][C:2](=[C:3]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][C:2](/[C:3]([H:4])=[C:5](/[H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.1298255683
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.34450601584
